US08003649B2
Methyl 4-(pyridin-4-yl)benzoate (285 g, 1336.57 mmol) and palladium (5% on carbon, 50% wet, JM Type 87L) (57 g, 13.39 mmol) in methanol (2850 mL) were stirred under an atmosphere of hydrogen at 5 bar and 70° C. for 15 hours. The catalyst was removed by filtration and washed with methanol (2850 mL). The solvent was evaporated to dryness to afford methyl 4-(piperidin-4-yl)benzoate (291 g, 99%) as a solid.

reactant | Methyl 4-(pyridin-4-yl)benzoate | 1336.57 mmol, 285 g | N1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C13H11NO2
solvent | methanol | 2850 mL | CO | CH4O
catalyst | palladium | 13.39 mmol, 57 g | [Pd] | Pd
product | methyl 4-(piperidin-4-yl)benzoate | 291 g, 99% | N1CCC(CC1)C1=CC=C(C(=O)OC)C=C1 | C13H17NO2
